US05679696
Sodium thiomethoxide (0.177 g, 2.5 mmol) is added portionwise to a stirred solution of cyclopentyl 3-cyclopentyloxy-4-nitrobenzoate (0.64 g, 2 mmol) in N,N'-dimethylimidazolidinone (10 mL) at ambient temperature under an atmosphere of nitrogen and stirring continued for 4 hours. The mixture is then diluted with water (100 mL) containing sodium chloride (15 g) and extracted with ethyl acetate (2×50 mL). The combined extract is washed with saturated brine (1×100 mL) and then dried over magnesium sulfate and evaporated under reduced pressure to give cyclopentyl 3-cyclopentyloxy-4-(methylthio)benzoate (0.52 g, 81%) as a brown viscous oil which is used without further purification.

reactant | Sodium thiomethoxide | 2.5 mmol, 0.177 g | C[S-].[Na+]
reactant | cyclopentyl 3-cyclopentyloxy-4-nitrobenzoate | 2 mmol, 0.64 g | C1(CCCC1)OC=1C=C(C(=O)OC2CCCC2)C=CC1[N+](=O)[O-] | C17H21NO5
reactant | sodium chloride | 15 g | [Cl-].[Na+]
solvent | N,N'-dimethylimidazolidinone | 10 mL | CN1C(N(CC1)C)=O | C5H10N2O
solvent | water | 100 mL | O | H2O
product | cyclopentyl 3-cyclopentyloxy-4-(methylthio)benzoate | 0.52 g, 81% | C1(CCCC1)OC=1C=C(C(=O)OC2CCCC2)C=CC1SC | C18H24O3S
